US03952005
1-(2-carboxyethyl)-2-isopropyl-4,5-diphenylimidazole-3-oxide
In 200 ml of glacial acetic acid 5.25 ml (0.1 mole) of isobutyraldehyde, 22.5 g (0.1 mole) of benzil monoxime and 8.9 g (0.1 mole) of beta-alanine is heated to reflux temperature for 3 hours. After cooling the mixture is added dropwise under vigorous stirring to one litre of concentrated aqueous ammonia. The solution is extracted with several portions of ether which is discarded. Now pH is adjusted to 7-8 by addition of hydrochloric acid, and further extractions with ether are performed on the resulting slurry. Also this ether is discarded. Finally pH is adjusted to 3 by further addition of hydrochloric acid and the precipitate is filtered off, washed with water and dried. Melting point: 245°-250° C. Thin layer chromatography reveals one spot only.

reactant | acetic acid | 0.1 mole, 200 ml | C(C)(=O)O | C2H4O2
reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
reactant | benzil monoxime | 0.1 mole, 22.5 g | C1(=CC=CC=C1)C(C(=O)C1=CC=CC=C1)=NO | C14H11NO2
reactant | beta-alanine | 0.1 mole, 8.9 g | NCCC(=O)O | C3H7NO2
solvent | ammonia | one litre | N | H3N
product | 1-(2-carboxyethyl)-2-isopropyl-4,5-diphenylimidazole-3-oxide | C(=O)(O)CCN1C(=[N+](C(=C1C1=CC=CC=C1)C1=CC=CC=C1)[O-])C(C)C | C21H22N2O3
